US08877801B2
To a solution of 5-((6-methoxy-2-(4-methoxyphenyl)benzo[b]thiophen-3-yl)oxy)picolinaldehyde (0.265 g, 0.68 mmol) in DCM (3.38 mL) at 0° C. was added methyl 2-(triphenylphosphoranylidene)acetate (0.543 g, 1.63 mmol) and the reaction was stirred at room temperature for 18 h. Upon completion the mixture was concentrated in vacuo to afford crude material which was purified by column chromatography (SiO2, 0-25% EtOAc/heptanes) to afford (E)-methyl 3-(5-((6-methoxy-2-(4-methoxyphenyl)benzo[b]thiophen-3-yl)oxy)pyridin-2-yl)acrylate (96 mg, 0.22 mmol, 32% yield). 1H NMR (400 MHz, CDCl3) δ ppm=3.70-3.75 (m, 6H), 3.79-3.83 (m, 3H), 6.70 (d, J=15.66 Hz, 1H), 6.77-6.88 (m, 3H), 7.02 (dd, J=8.59, 3.03 Hz, 1H), 7.17 (s, 1H), 7.18-7.22 (m, 2H), 7.48-7.59 (m, 3H), 8.42 (d, J=2.53 Hz, 1H). LC/MS (m/z, MH+): 448.3.

reactant | 5-((6-methoxy-2-(4-methoxyphenyl)benzo[b]thiophen-3-yl)oxy)picolinaldehyde | 0.68 mmol, 0.265 g | COC=1C=CC2=C(SC(=C2OC=2C=CC(=NC2)C=O)C2=CC=C(C=C2)OC)C1 | C22H17NO4S
reactant | methyl 2-(triphenylphosphoranylidene)acetate | 1.63 mmol, 0.543 g | C1(=CC=CC=C1)P(=CC(=O)OC)(C1=CC=CC=C1)C1=CC=CC=C1 | C21H19O2P
reactant | DCM | 3.38 mL | C(Cl)Cl | CH2Cl2
product | (E)-methyl 3-(5-((6-methoxy-2-(4-methoxyphenyl)benzo[b]thiophen-3-yl)oxy)pyridin-2-yl)acrylate | 0.22 mmol, 96 mg, 32% yield | COC=1C=CC2=C(SC(=C2OC=2C=CC(=NC2)/C=C/C(=O)OC)C2=CC=C(C=C2)OC)C1 | C25H21NO5S
